US04716241
2.47 g of 1-formyl-2,2,5,5-tetramethylcyclopentane was dissolved in 26 ml of acetone, and 5.2 ml of Jones' reagent was added thereto with ice cooling. After stirring at room temperature for 4 hours, 26 ml of water, 26 ml of ethyl acetate and 2.6 ml of isopropyl alcohol were added thereto, and the mixture was stirred at room temperature for 30 minutes, and the resulting layers were separated. The organic layer was washed with water and aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and subjected to filtration. The filtrate was concentrated under reduced pressure, whereby 2.51 g of 2,2,5,5-tetramethylcyclopentanecarboxylic acid was obtained. Yield 92%.

reactant | 1-formyl-2,2,5,5-tetramethylcyclopentane | 2.47 g | C(=O)C1C(CCC1(C)C)(C)C | C10H18O
reactant | Jones' reagent | 5.2 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | 26 ml | O | H2O
reactant | ethyl acetate | 26 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 26 ml | CC(=O)C | C3H6O
solvent | isopropyl alcohol | 2.6 ml | C(C)(C)O | C3H8O
product | 2,2,5,5-tetramethylcyclopentanecarboxylic acid | 2.51 g, Yield 92% | CC1(C(C(CC1)(C)C)C(=O)O)C | C10H18O2
